US03978129
6-Chloro-N,N-dimethyl-3-(4-methoxyphenyl)-3-hexenylamine Hydrochloride
1-Cyclopropyl-3-di-methylamino-1-(4-methoxyphenyl)- 1-propanol was dissolved in ether and ethereal hydrogen chloride was added to the ether solution. The ether insoluble hydrochloride salt was separated by filtration and recrystallized from isopropanol.

reactant | 1-Cyclopropyl-3-di-methylamino-1-(4-methoxyphenyl)- 1-propanol | C1(CC1)C(CCN(C)C)(O)C1=CC=C(C=C1)OC | C15H23NO2
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 6-Chloro-N,N-dimethyl-3-(4-methoxyphenyl)-3-hexenylamine Hydrochloride | Cl.ClCCC=C(CCN(C)C)C1=CC=C(C=C1)OC | InChI=1S/C15H22ClNO.ClH/c1-17(2)12-10-13(5-4-11-16)14-6-8-15(18-3)9-7-14;/h5-9H,4,10-12H2,1-3H3;1H
